US06559162B2
3-Benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine
A mixture of sodium cyanoborohydride (35.0 g, 0.557 mol) and zinc chloride (37.9 g, 0.278 mol) in methanol (500 mL) was added dropwise to a mechanically stirred mixture of 3-benzyl-3-azabicyclo[3.2.1]octan-8-one (Preparation A; 120 g, 0.557 mol) and methylamine hydrochloride (151 g, 2.23 mol) in methanol (1.0 L) at 25° C. under nitrogen. After 2.5 h of stirring, 6 N NaOH (90 mL) was added dropwise. The mixture was filtered through a pad of Celite®, washing with methanol (500 mL). The filtrate was concentrated in vacuo. Water (500 mL) was added, and the aqueous mixture was extracted with ethyl acetate (3×500 mL). The combined organic extracts were dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed, eluting with methanol dichloromethane (1:10), to afford 63.0 g (49%) of the sub-title compound as a solid.

reactant | sodium cyanoborohydride | 0.557 mol, 35.0 g | C(#N)[BH3-].[Na+]
reactant | 3-benzyl-3-azabicyclo[3.2.1]octan-8-one | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | methylamine hydrochloride | 2.23 mol, 151 g | Cl.CN
reactant | NaOH | 6 N, 90 mL | [OH-].[Na+]
solvent | methanol | 500 mL | CO | CH4O
solvent | methanol | 1.0 L | CO | CH4O
catalyst | zinc chloride | 0.278 mol, 37.9 g | [Cl-].[Zn+2].[Cl-]
product | 3-Benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine | 63.0 g, 49% | C(C1=CC=CC=C1)N1CC2CCC(C1)C2NC | C15H22N2
